US07977351B2
3-(1-Ethyl-6-morpholin-4-yl-1H-furo[3,4-c]pyridin-3-ylidene)-1,3-dihydro-indol-2-one
A solution of morpholine (200 mg, 2.29 mmol) in 4 mL of isopropanol is treated with 3-(6-Chloro-1-ethyl-1H-furo[3,4-c]pyridin-3-ylidene)-1,3-dihydro-indol-2-one (100 mg, 0.31 mmol) in one portion and the reaction mixture is heated to reflux for 72 h. The reaction mixture is cooled to room temperature and the solid which precipitated from solution is collected by filtration and dried to give the title compound as a yellow solid (61 mg, 54%).

reactant | morpholine | 2.29 mmol, 200 mg | N1CCOCC1 | C4H9NO
reactant | 3-(6-Chloro-1-ethyl-1H-furo[3,4-c]pyridin-3-ylidene)-1,3-dihydro-indol-2-one | 0.31 mmol, 100 mg | ClC1=CC2=C(C=N1)C(OC2CC)=C2C(NC1=CC=CC=C21)=O | C17H13ClN2O2
solvent | isopropanol | 4 mL | C(C)(C)O | C3H8O
product | 3-(1-Ethyl-6-morpholin-4-yl-1H-furo[3,4-c]pyridin-3-ylidene)-1,3-dihydro-indol-2-one | 61 mg, 54% | C(C)C1OC(C=2C=NC(=CC21)N2CCOCC2)=C2C(NC1=CC=CC=C21)=O | C21H21N3O3
